US07470710B2
(RS)-2-(2-Benzofuranylmethyl)-1-((5-(4-fluorophenyl)-2-methyl-thiazol-4-yl)-carbonyl)-piperidine
5-(4-Fluorophenyl)-2-methyl-thiazole-4-carbonyl chloride (136 mg, 0.53 mmol) in dichloromethane (1 ml) was added to a solution of (RS)-2-(2-benzofuranylmethyl)piperidine (104 mg, 0.48 mmol) and triethylamine (0.20 ml, 1.45 mmol) in dichloromethane (4 ml) and the mixture shaken at ambient temperature for 30 min. The resultant was washed with saturated aqueous sodium hydrogen carbonate (8 ml). The organic layer was applied directly onto a pre-packed silica gel column and chromatographed eluting with ethyl acetate hexane mixtures to give the title compound (50 mg, 24%) as an off-white solid.

reactant | 5-(4-Fluorophenyl)-2-methyl-thiazole-4-carbonyl chloride | 0.53 mmol, 136 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | (RS)-2-(2-benzofuranylmethyl)piperidine | 0.48 mmol, 104 mg | O1C(=CC2=C1C=CC=C2)CC2NCCCC2 | C14H17NO
reactant | triethylamine | 1.45 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (RS)-2-(2-Benzofuranylmethyl)-1-((5-(4-fluorophenyl)-2-methyl-thiazol-4-yl)-carbonyl)-piperidine | 50 mg, 24% | O1C(=CC2=C1C=CC=C2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C25H23FN2O2S
